US05071847
1-{2-[4-[(4-Fluorophenyl)phenylmethylene]piperidino]ethyl}-4-(2-pyridylmethyl)-2,6-piperazinedione trihydrochloride
This compound was prepared from 4-[(4-fluorophenyl)phenylmethylene]piperidine and 1-(2-chloroethyl)-4-(2-pyridylmethyl)-2,6-piperazinedione according to the process described in Example 6, Stage E.

reactant | 4-[(4-fluorophenyl)phenylmethylene]piperidine | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=CC=C1 | C18H18FN
reactant | 1-(2-chloroethyl)-4-(2-pyridylmethyl)-2,6-piperazinedione | ClCCN1C(CN(CC1=O)CC1=NC=CC=C1)=O | C12H14ClN3O2
product | 1-{2-[4-[(4-Fluorophenyl)phenylmethylene]piperidino]ethyl}-4-(2-pyridylmethyl)-2,6-piperazinedione trihydrochloride | Cl.Cl.Cl.FC1=CC=C(C=C1)C(=C1CCN(CC1)CCN1C(CN(CC1=O)CC1=NC=CC=C1)=O)C1=CC=CC=C1 | InChI=1S/C30H31FN4O2.3ClH/c31-26-11-9-24(10-12-26)30(23-6-2-1-3-7-23)25-13-16-33(17-14-25)18-19-35-28(36)21-34(22-29(35)37)20-27-8-4-5-15-32-27;;;/h1-12,15H,13-14,16-22H2;3*1H
